datasets/RMG-dataset.csv
rxn,Ea
[O:0]([S:1])[H:2].[O:3]([S:4])[H:5]>>[H:2][S:4][O:3][H:5].[O:0][S:1],0.0
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],66.5256
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12](=[C:13]([H:15])[H:16])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12](=[C:13]([H:15])[H:16])[H:14],-7.9496
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:13](=[C:14]([H:16])[H:17])[H:15])[H:8])[H:7])([H:5])[H:6],0.71128
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])([H:5])([H:6])[H:7],43.4299
[C:0]([C:1](=[C:2]([C:3](=[C:4]([S:5])[H:12])[H:11])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[S:5]1)([H:6])([H:7])[H:8],44.7688
[S:0]=[C:1]([S:2][H:4])[H:3].[c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15]>>[H:4][c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15].[S:0]=[C:1]([S:2])[H:3],-23.012
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[S:5][H:13])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:6].[S:5]([H:13])[H:14],8.7864
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[H:10])([H:7])[H:8])([H:5])([H:6])[H:9],119.244
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([S:8][H:15])([C:9](=[S:10])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:14])[H:3].[C:6]([C:7]([S:8][H:15])[C:9](=[S:10])[H:16])([H:11])([H:12])[H:13],13.3888
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([C:6]([C:7]([C:8]([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])[H:9],40.794
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19]#[C:18][H:23])([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:8],30.7524
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([O:7][O:8][H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:12])([H:17])[H:18])([O:7][O:8][H:19])[H:16])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11],69.4544
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10]([C:11](=[S:12])[H:15])([H:13])[H:14],38.4928
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:26])[H:14])([H:12])[H:13],11.506
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7]>>[C:0](=[C:1]=[O:2])([H:6])[H:7].[O:3][O:4][H:5],142.6744
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([S:18][H:26])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:22])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[S:18][H:26])([H:19])([H:20])[H:21],62.76
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],14.644
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[O:11][H:12]>>[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])([H:4])[H:5].[H:6][O:11][H:12],0.0
[C:0]([C:1](=[C:2]=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5]>>[C:0]([C:1]=[C:2]=[C:3]([H:7])[H:8])([H:4])([H:5])[H:6],207.731416
